US04732895
1-[5-Methyl-2-(4-pyridinyl)-1H-imidazol-4-yl]ethanone
A mixture of 6.5 g of 2,3,4-pentanetrione, 3-oxime and 6.0 g of 4-pyridylmethylamine in 75 ml of N,N-dimethylformamide was stirred at reflux temperature for 4 hours, then the solvent was removed in vacuo and 100 ml of acetonitrile was added to the residual oil. This mixture was boiled, then cooled at -10° C. The resulting precipitate was collected, washed with 50 ml of cold acetonitrile, air dried and then recrystallized from 150 ml of boiling acetonitrile after treatment with activated charcoal by cooling at -10° C., giving 4.0 g of the desired compound as a tan solid, mp 181°-183° C.

reactant | 2,3,4-pentanetrione | 6.5 g | CC(C(C(C)=O)=O)=O | C5H6O3
reactant | 4-pyridylmethylamine | 6.0 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-[5-Methyl-2-(4-pyridinyl)-1H-imidazol-4-yl]ethanone | 4.0 g | CC1=C(N=C(N1)C1=CC=NC=C1)C(C)=O | C11H11N3O
